US05863947
A stirred mixture of 2-butyl-4-cyanobenzaldehyde (0.9 g, 4.8 mmol), potassium cyanide (0.63 g, 9.6 mmol) and ammonium carbonate (1.85 g, 19.2 mmol) in ethanol/water (1:1, 10 ml) was heated with stirring in a sealed vessel at 85° C. overnight. The resulting crude solution was cooled and acidified with 2N hydrochloric acid (10 ml), then extracted with ethyl acetate (3×20 ml), combined, dried, then evaporated to yield a brown oil. Flash chromatography eluting with ethyl acetate/hexane (4:1) gave a pale brown oil lining the flask. It was triturated with ether (20 ml) and filtered off to give 5-(2-butyl-4-cyanophenyl)hydantoin as a white solid.

reactant | 2-butyl-4-cyanobenzaldehyde | 4.8 mmol, 0.9 g | C(CCC)C1=C(C=O)C=CC(=C1)C#N | C12H13NO
reactant | potassium cyanide | 9.6 mmol, 0.63 g | [C-]#N.[K+]
reactant | ammonium carbonate | 19.2 mmol, 1.85 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
reactant | ethanol water | 10 ml | C(C)O.O
product | 5-(2-butyl-4-cyanophenyl)hydantoin | C(CCC)C1=C(C=CC(=C1)C#N)C1C(NC(N1)=O)=O | C14H15N3O2
